US08211908B2
To a solution of 0.13 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride in 2.6 mL of N,N-dimethylformamide, 75 mg of 5,6,7,8-tetrahydroquinoxaline-2-carbaldehyde, 0.26 mL of acetic acid, 0.21 mL of triethylamine and 98 mg of sodium triacetoxyborohydride were added, and the mixture was stirred at room temperature for 9 hours 40 minutes. Thereto were added water, a saturated aqueous sodium hydrogen carbonate solution, and ethyl acetate, and the reaction mixture was adjusted to pH 11.5 with a 20% aqueous sodium hydroxide solution, the organic layer was then separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=10:1, and thereto were added ethyl acetate and a 4 mol/L hydrogen chloride/ethyl acetate solution. The solvent was distilled off under reduced pressure, diethyl ether was added thereto, and the solid was filtered off to obtain 92 mg of 7-methoxy-1-(2-(4-((5,6,7,8-tetrahydroquinoxalin-2-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride as a light brown solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 0.13 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | 5,6,7,8-tetrahydroquinoxaline-2-carbaldehyde | 75 mg | N1=C(C=NC=2CCCCC12)C=O | C9H10N2O
reactant | sodium triacetoxyborohydride | 98 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 2.6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 0.26 mL | C(C)(=O)O | C2H4O2
product | 7-methoxy-1-(2-(4-((5,6,7,8-tetrahydroquinoxalin-2-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride | 92 mg | Cl.COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=NC=2CCCCC2N=C1)=O | InChI=1S/C25H32N6O2.ClH/c1-33-20-14-24-23(28-17-20)6-7-25(32)31(24)13-12-30-10-8-18(9-11-30)26-15-19-16-27-21-4-2-3-5-22(21)29-19;/h6-7,14,16-18,26H,2-5,8-13,15H2,1H3;1H
